* c:\fossee2\esim\library\subcircuitlibrary\sc_sn74f175\sc_sn74f175.cir

* u4  net-_u1-pad4_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad2_ net-_u1-pad3_ d_dff
* u5  net-_u1-pad5_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad7_ net-_u1-pad6_ d_dff
* u6  net-_u1-pad12_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad10_ net-_u1-pad11_ d_dff
* u7  net-_u1-pad13_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad15_ net-_u1-pad14_ d_dff
* u3  net-_u1-pad9_ net-_u3-pad2_ d_buffer
* u2  net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? port
a1 net-_u1-pad4_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad2_ net-_u1-pad3_ u4
a2 net-_u1-pad5_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad7_ net-_u1-pad6_ u5
a3 net-_u1-pad12_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad10_ net-_u1-pad11_ u6
a4 net-_u1-pad13_ net-_u3-pad2_ ? net-_u2-pad2_ net-_u1-pad15_ net-_u1-pad14_ u7
a5 net-_u1-pad9_ net-_u3-pad2_ u3
a6 net-_u1-pad1_ net-_u2-pad2_ u2
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u4 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u5 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u3 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
